US09023840B2
Step 6: 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide
5-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide (0.350 g, 0.75 mmol) was dissolved in dichloromethylene (3 mL). To the solution was added TFA (1.5 mL). The mixture was stirred at room temperature for 2 hours. The volatiles were evaporated under reduced pressure. The residue was dissolved in methanol (5 mL), and ethylenediamine (1.0 mL) was added. The mixture was stirred at room temperature overnight, and was purified by RP-HPLC (pH=10) to afford the desired product. LCMS (M+H)+: m/z=467.3.

reactant | 5-{3-(Cyanomethyl)-3-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide | 0.75 mmol, 0.350 g | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)N[C@@H](C)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C32H40N8O2Si
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 5-{3-(cyanomethyl)-3-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-N-[(1S)-1-cyclopropylethyl]pyridine-2-carboxamide | C(#N)CC1(CN(C1)C=1C=CC(=NC1)C(=O)N[C@@H](C)C1CC1)N1N=CC(=C1)C1=C2C(=NC=C1)NC=C2 | C26H26N8O
